US04460788
61.5 parts of 2,3,5,6-tetrachloro-4-methylaniline, 180 parts of phenol and 15 parts of a 1% strength palladium/charcoal catalyst are reacted with hydrogen under a maximum pressure of 50 bar at 180° C. in a tantalum autoclave, in the presence of a small amount of hydrochloric acid, in the course of 5 hours, while stirring. After the pressurized vessel has been cooled and the pressure released, the mixture is diluted with 300 parts of water and 200 parts of toluene, rendered alkaline, heated to 90°, and separated from the catalyst. The catalyst is boiled up with toluene, and the combined toluene solutions are distilled. 44 parts of 3,5-dichloro-4-methylaniline, bp. 146°-155°/18 mbar, 98% strength, are obtained; yield: 98% of theory.

reactant | 2,3,5,6-tetrachloro-4-methylaniline | ClC1=C(N)C(=C(C(=C1Cl)C)Cl)Cl | C7H5Cl4N
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium/charcoal | [Pd] | Pd
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tantalum | [Ta] | Ta
product | 3,5-dichloro-4-methylaniline | yield: 98% | ClC=1C=C(N)C=C(C1C)Cl | C7H7Cl2N
